US03989719
To a solution containing 2.9 parts of 8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine-10-carboxylic acid hydrazide, 50 parts by volume of acetonitrile and excess aqueous potassium carbonate is added 1.6 parts of 3-cyclopentylpropionyl chloride and the resulting reaction mixture is stirred at room temperature for about 2 days. The solvent is stripped under reduced pressure and the resulting residue is purified by chromatography on a silica gel column, using ethyl acetate-benzene solutions as the eluants. The 5% ethyl acetate in benzene eluate, after removal of the solvents, affords 1-(3-cyclopentylpropionyl)-2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine-10-carbonyl)hydrazine, characterized by the following structural formula ##SPC6##

reactant | 8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine-10-carboxylic acid hydrazide | ClC1=CC2=C(OC3=C(CN2C(=O)NN)C=CC=C3)C=C1 | C14H12ClN3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 3-cyclopentylpropionyl chloride | C1(CCCC1)CCC(=O)Cl | C8H13ClO
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(3-cyclopentylpropionyl)-2-(8-chloro-10,11-dihydrodibenz[b,f][1,4]oxazepine-10-carbonyl)hydrazine | C1(CCCC1)CCC(=O)NNC(=O)N1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)Cl | C22H24ClN3O3
